US07579469B2
A mixture of 4-hydroxyquinoline (5.0 g), aqueous sodium hydroxide solution (1M, 42 mL) and formaldehyde solution (37% in water, 6 mL) was heated at 45° C. for 18.5 hours. The reaction mixture was filtered, acidified with 2N HCl (21 mL) and extracted with ethyl acetate. The aqueous layer was chilled to afford 4-hydroxy-3-hydroxymethylquinoline (2.0 g) as a white solid.

reactant | 4-hydroxyquinoline | 5.0 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium hydroxide | 1M, 42 mL | [OH-].[Na+]
reactant | formaldehyde | 6 mL | C=O | CH2O
product | 4-hydroxy-3-hydroxymethylquinoline | 2.0 g | OC1=C(C=NC2=CC=CC=C12)CO | C10H9NO2
